US04617390
1,3,5-Tris-(p-(dodec-1-yloxycarbonyl)-anilino)-s-triazine
18.5 g of cyanuric chloride and 92 g of dodecyl p-aminobenzoate in 1,000 ml of xylene were heated at 140° C. until HCl gas was no longer evolved. After 8 hours, the reaction solution was cooled to 80° C., washed twice with saturated sodium bicarbonate solution and once with water, and then cooled to room temperature. The precipitated crystals were filtered off under suction and dried.

reactant | cyanuric chloride | 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | dodecyl p-aminobenzoate | 92 g | NC1=CC=C(C(=O)OCCCCCCCCCCCC)C=C1 | C19H31NO2
reactant | HCl | Cl | ClH
solvent | xylene | 1,000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3,5-Tris-(p-(dodec-1-yloxycarbonyl)-anilino)-s-triazine | C(CCCCCCCCCCC)OC(=O)C1=CC=C(NN2CN(CN(C2)NC2=CC=C(C=C2)C(=O)OCCCCCCCCCCCC)NC2=CC=C(C=C2)C(=O)OCCCCCCCCCCCC)C=C1 | C60H96N6O6
